US07361645B2
Production of 11β-Chloro-17β-hydroxy-7α-methyl-estr-4-en-3-one (I) (Diagram D, FIG. 4)
In analogy to Example 1 7α-Ethyl-11β-fluoro-17β-hydroxy-estr-4-en-3-one, using ethylmagnesium bromide instead of methylmagnesium bromide, is obtained; Fp. 115.1° C., [α]D20=+62,1° (in chloroform). The intermediate 7α-Ethyl-11β-fluoro-estr-4-en-3,17-dione shows Fp.=174.9° C. and [α]D20=+107,1° (chloroform).

reactant | 7α-Ethyl-11β-fluoro-17β-hydroxy-estr-4-en-3-one | C(C)[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)O | C20H29FO2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 7α-Ethyl-11β-fluoro-estr-4-en-3,17-dione | C(C)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2[C@H]2CCC(C=C2C1)=O)F)=O | C20H27FO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 11β-Chloro-17β-hydroxy-7α-methyl-estr-4-en-3-one | Cl[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)C)=O | C19H27ClO2
